US04269838
While 9.3 g of piperazine is refluxed in 50 ml of methanol with stirring, 10 g of p-chlorophenyl glycidyl ether are added dropwise over a period of 1.5 hours. After the addition has been completed, the mixture is refluxed with stirring for a further 1.5 hours, and then concentrated to dryness under reduced pressure. The residue is dissolved in dilute hydrochloric acid and extracted with ethyl acetate. The water layer is rendered basic with sodium hydroxide, extracted first with benzene from which there can be obtained N,N'-bis[3-(4-chlorophenoxy)-2-hydroxypropyl]piperazine, and then with n-butanol. The butanol extracts are washed with water and the solvent then removed by distillation under reduced pressure to yield 10.0 g of N-[3-(4-chlorophenoxy)-2-hydroxypropyl]piperazine as a colorless oil.

reactant | piperazine | 9.3 g | N1CCNCC1 | C4H10N2
reactant | p-chlorophenyl glycidyl ether | 10 g | C(C1CO1)OC1=CC=C(C=C1)Cl | C9H9ClO2
solvent | methanol | 50 ml | CO | CH4O
product | N,N'-bis[3-(4-chlorophenoxy)-2-hydroxypropyl]piperazine | ClC1=CC=C(OCC(CN2CCN(CC2)CC(COC2=CC=C(C=C2)Cl)O)O)C=C1 | C22H28Cl2N2O4
